US03969463
6-(N,N-Dimethylamino)-2-methyltetrahydroquinoline (25 g., 0.132 mole) is mixed with diethyl ethoxymethylenemalonate (28.4 g., 0.132 mole), and the mixture is heated at 120° C. for 3 hours. Polyphosphoric acid (200 g.) is added, and the solution is heated gradually to 120° C. with occasional stirring. The solution is maintained at 120° to 130° C. for one hour then poured into 500 ml. of water, with stirring. The solution is neutralized with 40 percent sodium hydroxide solution. The yellow product is separated by filtration and recrystallized from ethanol giving ethyl 6,7-dihydro-9-(N,N-dimethylamino)-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate, m.p. 219°-222° C.

reactant | 6-(N,N-Dimethylamino)-2-methyltetrahydroquinoline | 0.132 mole, 25 g | CN(C)C=1C=C2CCC(NC2=CC1)C | C12H18N2
reactant | diethyl ethoxymethylenemalonate | 0.132 mole, 28.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | ethyl 6,7-dihydro-9-(N,N-dimethylamino)-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylate | CN(C)C1=CC=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)OCC)C | C18H22N2O3
